US04918012
Cells were collected by centrifugation from 300 ml of the culture broth obtained by cultivating the strain CA28-50A in the same medium as used in Example 9 containing 0.5% DL-carnitinamide and ground in a 50 mM phosphate buffer solution (pH 7.0) together with quartz sand followed by centrifugation to obtain 30 ml of a cell-free extract. Living cells and a cell-free extract were each added to a reaction solution containing 0.2% DL-carnitinamide in the same concentration as that in the growth culture medium in terms of the original cell amount and the resulting mixtures were allowed to stand for the reaction at 26° C. Analytical data on the reaction time and the amount of L-carnitine formed are shown in Table 7 below.

reactant | carnitinamide | C[N+](C)(C)CC(CC(=O)N)O
reactant | phosphate | 50 mM, pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | quartz sand | O=[Si]=O | O2Si
product | L-carnitine | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
